US07795250B2
Step 1: Methyl (2E)-3-(4-chloro-3-nitrophenyl)acrylate
To a solution of 4-chloro-3-nitrocinnamic acid in a mixture of methanol/DCM (1:1, v/v, 0.09 M), a 2 M solution of trimethylsilyl diazomethane in hexane (4 eq) was slowly added until the yellow color persisted, indicating an excess of diazomethane. The resulting mixture was evaporated. PE was added to the residue and the resultant precipitate was filtered and dried under vacuo to afford the title compound (97%) as a solid. 1H NMR (400 MHz; DMSO-d6, 300 K) δ 3.75 (s, 3H), 6.86 (d, J 16, 1H), 7.73 (d, J 16, 1H), 7.84 (d, J 8.4, 1H), 8.08 (d, J 8.4, 1H), 8.48 (s, 1H); MS (ES+) m/z 242 (M+H)+.

reactant | 4-chloro-3-nitrocinnamic acid | ClC1=C(C=C(C=CC(=O)O)C=C1)[N+](=O)[O-] | C9H6ClNO4
reactant | trimethylsilyl diazomethane | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
reactant | hexane | 4 eq | CCCCCC | C6H14
reactant | diazomethane | [N+](=[N-])=C | CH2N2
solvent | methanol DCM | 0.09 M | CO.C(Cl)Cl
product | Methyl (2E)-3-(4-chloro-3-nitrophenyl)acrylate | 97% | ClC1=C(C=C(C=C1)/C=C/C(=O)OC)[N+](=O)[O-] | C10H8ClNO4
